US09107916B2
B. ethyl (2E)-2-[[2-(4-cyanopyridin-2-yl)hydrazinyl]methylidene]butanoate
The title compound was prepared from ethyl (2E)-2-(dimethylaminomethylidene)butanoate and 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) according to the procedure for the preparation of Example 84, part B. [M+H] Calc'd for C13H16N4O2, 261. Found, 261.

reactant | ethyl (2E)-2-(dimethylaminomethylidene)butanoate | CN(C)\C=C(\C(=O)OCC)/CC | C9H17NO2
reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
product | ethyl (2E)-2-[[2-(4-cyanopyridin-2-yl)hydrazinyl]methylidene]butanoate | C(#N)C1=CC(=NC=C1)NN\C=C(\C(=O)OCC)/CC | C13H16N4O2
